### PR TITLE
[Merged by Bors] - feat: the indicator of a set is a Bernoulli random variable

### PR DESCRIPTION
**Pull request by EtienneC30**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Bernoulli.lean [hunk 1]
```diff
@@ -180,4 +190,34 @@ lemma integral_bernoulliMeasure [MeasurableSingletonClass X] (x y : X) (p : I) (
...
+  aemeasurable := aemeasurable_const.indicator₀ hs
+  map_eq := by
+    classical
+    have := (aemeasurable_const (b := c)).indicator₀ hs
+    apply eq_bernoulliMeasure
+    all_goals
+      intro t ht h1 h2
+      rw [map_apply_of_aemeasurable this ht]
+      simp_all [Set.indicator_const_preimage_eq_union, measure_compl₀ hs, ENNReal.coe_nnreal_eq,
+        ENNReal.ofReal_sub]
```
Comment (FrankieNC) [inline Mathlib/Probability/Distributions/Bernoulli.lean]: This should also work.

```suggestion
    HasLaw (s.indicator (fun _ ↦ c)) Ber(c, 0, ⟨P.real s, by simp⟩) P := by
  classical
  have h : AEMeasurable (s.indicator fun _ ↦ c) P := aemeasurable_const.indicator₀ hs
  refine ⟨h, eq_bernoulliMeasure ?_ ?_ ?_ ?_⟩ <;> intro t ht h1 h2 <;>
    simp_all [map_apply_of_aemeasurable h ht, Set.indicator_const_preimage_eq_union,
      measure_compl₀ hs, ENNReal.coe_nnreal_eq, ENNReal.ofReal_sub]
```

Comment (FrankieNC) [reply Mathlib/Probability/Distributions/Bernoulli.lean]: Out of curiosity, what is the policy on `simp_all`? I imagine its use makes the build step slightly slower.

Comment (EtienneC30) [reply Mathlib/Probability/Distributions/Bernoulli.lean]: I merged both proofs as I don't like chaining `<;>`. I am not aware of any particular policy regarding `simp_all`, I don't see why it would be much slower than `simp`.

File: Mathlib/Probability/Distributions/Bernoulli.lean [hunk 2]
```diff
@@ -180,4 +190,31 @@ lemma integral_bernoulliMeasure [MeasurableSingletonClass X] (x y : X) (p : I) (
...
+section HasLaw
+
+/-! ### Bernoulli random variables -/
+
+variable {Ω : Type*} {mΩ : MeasurableSpace Ω} {P : Measure Ω}
+
+/-- The constant indicator of a set follows a Bernoulli distribution. -/
+theorem hasLaw_indicator_bernoulliMeasure [IsProbabilityMeasure P] {M : Type*} [Zero M]
+    [MeasurableSpace M] (c : M) {s : Set Ω}
+    (hs : NullMeasurableSet s P) :
```
Comment (CoolRmal) [inline Mathlib/Probability/Distributions/Bernoulli.lean]:
```suggestion
    [MeasurableSpace M] (c : M) {s : Set Ω} (hs : NullMeasurableSet s P) :
```

**Review by CoolRmal — COMMENTED** [review]
maintainer merge

**Review by RemyDegenne — APPROVED** [review]
bors r+
